Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Acute DVT
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ yo female who presented to ___ 
with 12 hours of right lower extremity swelling edema, 
paresthesias, pain and cyanosis.  She underwent CT and was found 
to have extensive DVT in the right common femoral to
popliteal vein in the thigh, as well as right common iliac vein 
atresia. She was transferred to ___ for higher level of 
care.  When she arrived in the ___, Vascular surgery was 
consulted for possible threatened limb given
undetectable distal pulses.  She was started on a heparin drip, 
her right lower extremity was elevated and she was admitted to 
the vascular surgery service.  She denies similar episodes, 
recent trauma, recent surgery, history of DVT, PE, 
thrombophilia.

Of note, she was currently on oral contraceptives for 
amenorrhea.  Her father was diagnosed with acute DVT 2 months 
ago and she believes her maternal aunt and daughter of said aunt 
to have Factor V Leiden.
 
Past Medical History:
ASD s/p repair at age ___ months
amennorhea, on oral contraceptive

 
Social History:
___
Family History:
Father with acute lower extremity DVT, maternal aunt and 
maternal niece (daughter of maternal aunt) with Factor V Leiden
 
Physical Exam:
99.4po, 120/82, 82, 20, 96%RA
General: Ms. ___ is a well developed, well hydrated obese 
Caucasian young adult.
HEENT: Head is atraumatic, normocephlaic.  Mucous membranes are 
moist.  Sclerae are anicteric.  Neck is supple. There is no JVD. 
Trachea is midline.
LUNGS: Clear to auscultation
CARDIAC: Normal S1-S2. No clicks, gallops or rubs.  Capillary 
refill is brisk.
ABDOMEN: Soft, non tender
LOWER EXTREMITIES: Right lower extremity is supple and edematous 
to the mid thigh.  Brisk capillary refill.  Demonstrates intact 
range of motion.  Sensory and motor exam grossly intact.  The 
leg is non tender.
 
Pertinent Results:
___ 09:21AM BLOOD WBC-8.3# RBC-4.22 Hgb-12.7 Hct-37.9 
MCV-90 MCH-30.1 MCHC-33.5 RDW-11.8 RDWSD-38.2 Plt ___

CTA with and without contrast performed on ___ demonstrated 
1. Completely occlusive thrombosis is identified in the right 
external iliac 
vein, continuing into internal iliac vein and extending 
inferiorly to below 
knee segments. The thrombus also extends to superior portion of 
right greater 
saphenous. 
2. The right common iliac vein is atretic and therefore the 
thrombosed right 
external iliac vein does not connect to IVC.  Drainage from the 
right external 
and internal iliac veins appears to be via  lumbosacral plexus, 
adnexal and 
presacral collateral vessels. 
3. Diffuse right lower extremity soft tissue edema. 
4. Left lower extremity and left pelvic veins are patent. 

 
Brief Hospital Course:
Ms. ___ was brought to the floor and maintained on Heparin 
drip with therapeutic PTTs.  Her pulse, sensory and motor exams 
were monitored closely.  Her right leg was elevated.  Her pain, 
paresthesia, edema and pallor gradually resolved.  After careful 
evalution of her CT and a discussion with the team, it was 
decided that her symptoms resolved dramatically while on heparin 
drip and that intervention would not provide any additional 
benefit.  She was transitioned to Rivaroxaban.  At the time of 
discharge, her pain was well controlled on Oxycodone and 
Tylenol.  Her vital signs were stable, she was voiding 
sufficient amounts of clear yellow urine.  Medication teaching 
was reviewed with patient and her mother.  She requested to be 
evaluated by hematology at ___.  
 
Medications on Admission:
Pseudoephedrine dose unknown, daily
Oral contraceptive
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every 8 hours Disp 
#*24 Tablet Refills:*0 
2.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 4 hours Disp #*20 
Tablet Refills:*0 
3.  Rivaroxaban 15 mg PO BID 
x 3 weeks.  Then start 20mg daily for 6 months. 
RX *rivaroxaban [___] 15 mg (42)- 20 mg (9) 1 tablets(s) by 
mouth ___ times daily as directed Disp #*1 Dose Pack Refills:*0 
4.  Rivaroxaban 20 mg PO DAILY 
Start on ___. 
RX *rivaroxaban [___] 20 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*4 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
DVT right external iliac vein, continuing into internal iliac 
vein and extending inferiorly to below 
knee segments, superior portion of right greater 
saphenous. 
Atretic right common iliac vein 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Devyn,

You were admitted to the hospital for treatment of a large blood 
clot in your right leg.  You were started on blood thinners, 
which you tolerated well.  We discussed various options for 
blood thinners and decided to try Xarelto (Rivaroxaban).  We 
discussed that you should not get pregnant while on this 
medication.  It is also very important that you do not 
participate in contact sports such as rugby.  You should never 
skip a dose of your blood thinner.  You should consume alcohol 
in moderation or not at all.  

It is very important that you keep your follow up with 
hematology.  You requested to see a hematologist at ___ 
___.  You are referred to Dr. ___.  You will receive 
a phone call from their new patient coordinator, ___.  They will help to figure out why you developed a 
blood clot and they will help to develop a plan to prevent 
another clot from developing.  For now, you should remain OFF of 
your birth control pill.  You need to follow up with your 
primary care provider regarding this.
 
Followup Instructions:
___